US07091228B2
To a solution of methyl 4-[2-(4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate (1.24 g, 3.25 mmol) in 85% ethanol (50 mL) was added iron powder (1.81 g), followed by 2 N aqueous HCl (1.62 mL), and the resulting mixture was refluxed for 2.5 h. The mixture was then filtered through a pad of Celite® and the filtrate was extracted with dichloromethane. The combined organic phases were then dried over anhydrous sodium sulfate and concentrated in vacuo to afford methyl 4-[2-(4′-amino-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate (1.05 g, 91%). LC-MS ret. time 2.20; m/z 354.0 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.57–1.66 (m, 2H), 2.09 (m, 2H), 3.28 (s, 2H), 3.61 (s, 3H), 3.64–3.71 (m, 4H), 6.76 (d, 2H), 7.42 (d, 2H), 7.54 (d, 2H), 7.88 (d, 2H).

reactant | methyl 4-[2-(4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate | 3.25 mmol, 1.24 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC1(CCOCC1)C(=O)OC)=O | C21H21NO6
reactant | HCl | 2 N, 1.62 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | iron | 1.81 g | [Fe] | Fe
product | methyl 4-[2-(4′-amino-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate | 1.05 g, 91% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC1(CCOCC1)C(=O)OC)=O | C21H23NO4
